US05190958
(i) Preparation of 3-phenylmethylpiperid-2-one
To a stirred solution of 2-piperidone (40 g, 0.404 mol) in tetrahydrofuran (800 ml) at 0° C. was added, over a period of 2 hours, n-butyl lithium (2.5 M in hexane, 356 ml, 0.889 mol). The reaction was cooled to -40° C. and a solution of benzyl bromide (48 ml, 0.404 mol) in tetrahydrofuran (200 ml) was added dropwise over a period of 2 hours. The reaction was allowed to warm slowly to room temperature and stirred for 12 hours. Water (100 ml) and saturated aqueous ammonium chloride (100 ml) were added and the aqueous phase separated and extracted with ethyl acetate (3×100 ml). The combined organic phases were washed with brine (200 ml), dried with sodium sulphate and evaporated in vacuo. The resulting solid was recrystallised from toluene to give the desired product as white needles (41.2 g), m.pt. 120°-123° C. Low resolution mass spectroscopy revealed the mass/charge ratio of the parent molecule ion, M+, to be 190 thereby confirming the molecular of the product to be 190.

reactant | 2-piperidone | 0.404 mol, 40 g | N1C(CCCC1)=O | C5H9NO
reactant | n-butyl lithium | 0.889 mol, 2.5 M, 356 ml | C(CCC)[Li]
reactant | benzyl bromide | 0.404 mol, 48 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | Water | 100 ml | O | H2O
product | 3-phenylmethylpiperid-2-one | 41.2 g | C1(=CC=CC=C1)CC1C(NCCC1)=O | C12H15NO
